US07691866B2
The mixture containing 2-[(4-bromophenyl)amino]quinazolin-6-ol (1 eq), potassiumbis(trimethylsilyl)amide (4eq) was stirred in dimethylformamide for 10 min at room temperature. To this mixture was added (4-chloro(2-pyridyl)-N-methylcarboxamide (1 eq) and Potassium carbonate (1.2 eq) and microwaved for 6 mins at 170° C. The reaction mixture was then concentrated and partitioned between ethyl acetate and water. The organic layer was separated and washed with brine, dried, filtered and concentrated. Purification on preparative chromatography yielded 4-{2-[(4-bromophenyl)amino]quinazolin-6-yloxy}-(2-pyridyl)-N-methylcarboxamide in 70-75% yield.

reactant | 2-[(4-bromophenyl)amino]quinazolin-6-ol | 1 eq | BrC1=CC=C(C=C1)NC1=NC2=CC=C(C=C2C=N1)O | C14H10BrN3O
reactant | potassiumbis(trimethylsilyl)amide | 4eq | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-chloro(2-pyridyl)-N-methylcarboxamide | 1 eq | ClC1=CC(=NC=C1)C(=O)NC | C7H7ClN2O
reactant | Potassium carbonate | 1.2 eq | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-{2-[(4-bromophenyl)amino]quinazolin-6-yloxy}-(2-pyridyl)-N-methylcarboxamide | 70-75% yield | BrC1=CC=C(C=C1)NC1=NC2=CC=C(C=C2C=N1)OC1=CC(=NC=C1)C(=O)NC | C21H16BrN5O2
